US07410972B2
b) 5-Chloro-N-[5-methyl-3-(3-pyridinylmethoxy)-2-pyrazinyl]-2-thiophenesulphonamide
Prepared by the method of Example 20b using pyridine-3-methanol and 5-chloro-N-(3-bromo-5-methyl-2-pyrazinyl)-2-thiophenesulphonamide.

reactant | pyridine-3-methanol | N1=CC(=CC=C1)CO | C6H7NO
reactant | 5-chloro-N-(3-bromo-5-methyl-2-pyrazinyl)-2-thiophenesulphonamide | ClC1=CC=C(S1)S(=O)(=O)NC1=NC=C(N=C1Br)C | C9H7BrClN3O2S2
product | 5-Chloro-N-[5-methyl-3-(3-pyridinylmethoxy)-2-pyrazinyl]-2-thiophenesulphonamide | ClC1=CC=C(S1)S(=O)(=O)NC1=NC=C(N=C1OCC=1C=NC=CC1)C | C15H13ClN4O3S2
